US06977264B2
Step (b) N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(cyclopropylmethyl)-(methylsulfonyl)amino]phenyl}piperidyl)-2-oxoethyl]azetidin-3-ylcarboxamide
The title compound was prepared according to the procedure described in Example 3 (Step b) using tert-butyl 3-(N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2-[(cyclopropylmethyl)-(methylsulfonyl)amino]phenyl}piperidyl)-2-oxoethyl]carbamoyl)azetidine-carboxylate (Step a) (565 mg, 0.84 mmol) and 50% TFA in CH2Cl2 (6 mL). Purification by reverse phase preparative HPLC [YMC-Pack ODS-AM 250×20 mm 5 μm column, 40% to 75% CH3CN (0.1% TFA) in H2O(0.1% TFA) over 10 min] provided the title compound (TFA salt) as an amorphous white solid (420 mg). MS (ESI, pos. ion) m/z: 573 (M+1). Calcd for C29H37ClN4O4S: 572.22. Anal. Calcd for C29H37ClN4O4S 1.7C2HF3O2: C, 50.74; H, 5.09; N, 7.30, S, 4.18. Found: C. 50.47; H, 5.03; N, 7.36; S, 4.28.

reactant | tert-butyl 3-(N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-{2-[(cyclopropylmethyl)-(methylsulfonyl)amino]phenyl}piperidyl)-2-oxoethyl]carbamoyl)azetidine-carboxylate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)N(S(=O)(=O)C)CC1CC1)NC(=O)C1CN(C1)C(=O)OC(C)(C)C | C34H45ClN4O6S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(cyclopropylmethyl)-(methylsulfonyl)amino]phenyl}piperidyl)-2-oxoethyl]azetidin-3-ylcarboxamide | 420 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)N(S(=O)(=O)C)CC1CC1)NC(=O)C1CNC1 | C29H37ClN4O4S
